US05707987
Magnesium (3.4 g) and a solution of 1,2-dibromoethane (5.3 ml, 60.8 mmol) in diethyl ether (40 ml) were successively added to a solution of 2-bromonaphthalene (12.6 g, 60.8 mmol) in diethyl ether (160 ml) at room temperature in a nitrogen stream and this reaction solution was refluxed under heating for 2.5 hours. The reaction solution was gradually cooled and a solution of (2S,4R)-N-t-butoxycarbonyl-4-(t-butyldimethylsiloxy)prolinal (10 g, 30.4 mmol) in tetrahydrofuran (50 ml) was added dropwise thereto under cooling with ice. Then, the reaction solution was stirred at room temperature for 1 hour. After addition of water, the reaction solution was concentrated in vacuo and was poured into a liquid mixture of ethyl acetate with water. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated in vacuo. The resulting oily residue was subjected to silica gel column chromatography (Wakogel™ C-300, heptane-ethyl acetate=4:1) to give (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-[hydroxy(2-naphthyl)methyl]pyrrolidine (9.38 g, yield: 67.5%) as a yellow oily substance.

reactant | Magnesium | 3.4 g | [Mg] | Mg
reactant | 1,2-dibromoethane | 60.8 mmol, 5.3 ml | BrCCBr | C2H4Br2
reactant | 2-bromonaphthalene | 60.8 mmol, 12.6 g | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | (2S,4R)-N-t-butoxycarbonyl-4-(t-butyldimethylsiloxy)prolinal | 30.4 mmol, 10 g | C(C)(C)(C)OC(=O)N1[C@H](C=O)C[C@H](C1)O[Si](C)(C)C(C)(C)C | C16H31NO4Si
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 160 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-[hydroxy(2-naphthyl)methyl]pyrrolidine | 9.38 g, yield: 67.5% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(C1=CC2=CC=CC=C2C=C1)O | C26H39NO4Si
